US04166126
The starting material is prepared as follows: The solution of 6.4 g of 7-chloro-5-hydroxy-2,3-dihydro-1-benzothiepin in 65 ml of dry methanol and 65 ml of dry dioxane is treated dropwise at 0° in 1 hour with the solution of 7.0 g of sodium metaperiodate in 65 ml water. The mixture is stirred at 0° for two hours after the addition period and then allowed to warm to room temperature for overnight. It is filtered and the solid rinsed with 30 ml of methanol. The combined filtrate and wash is concentrated to a smaller volume and treated with 40 ml of water. The mixture is extracted with chloroform, the extract separated, washed with water, dried and evaporated, to yield the 7-chloro-5-hydroxy-2,3-dihydro-1-benzothiepin-1-oxide boiling at 154-157/0.25 mmHg.

reactant | 7-chloro-5-hydroxy-2,3-dihydro-1-benzothiepin | 6.4 g | ClC=1C=CC2=C(C(=CCCS2)O)C1 | C10H9ClOS
reactant | sodium metaperiodate | 7.0 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 65 ml | CO | CH4O
solvent | dioxane | 65 ml | O1CCOCC1 | C4H8O2
solvent | water | 65 ml | O | H2O
product | 7-chloro-5-hydroxy-2,3-dihydro-1-benzothiepin-1-oxide | ClC=1C=CC2=C(C(=CCCS2=O)O)C1 | C10H9ClO2S
